US07456289B2
A mixture of (6-methoxy-benzofuran-3-yl)-acetic acid (2 g, 9.7 mmol) and H2SO4 (0.3 mL) in methanol (40 mL) was refluxed for 8 h and then concentrated. An aqueous NaHCO3 solution was added, followed by extraction with CH2Cl2. The combined organic layers were dried over anhydrous MgSO4 and evaporated to give a brown oil, which was purified on a silica gel column eluting with EtOAc/hexane (1:10) to give methyl 2-(6-methoxybenzofuran-3-yl)acetate (2.1 g, 98%)

reactant | (6-methoxy-benzofuran-3-yl)-acetic acid | 9.7 mmol, 2 g | COC1=CC2=C(C(=CO2)CC(=O)O)C=C1 | C11H10O4
reactant | H2SO4 | 0.3 mL | OS(=O)(=O)O | H2O4S
reactant | methanol | 40 mL | CO | CH4O
product | methyl 2-(6-methoxybenzofuran-3-yl)acetate | 2.1 g, 98% | COC1=CC2=C(C(=CO2)CC(=O)OC)C=C1 | C12H12O4
